US06498174B1
Intermediate 2B: 2-[5-ethyl-2-phenyl-1,3-thiazol-4-yl]acetic acid
A suspension of 8.7 g (63.3 mmol) of thiobenzamide and 10 g (42.2 mmol) of ethyl 4-bromo-3-oxo-hexanoate in 45 mL of toluene was refluxed for 6 hrs with Dean-Stark trap removal of water. Cooled, added methanol, and continued reflux for 1 h. Cooled, partially concentrated (˜½ volume), then 30 mL of 2.0 M NaOH solution was added. Stirred the mixture at 80° C. for 2 hrs before cooling and extraction of the aqueous with EtOAc. The aqueous phase was treated with 70 mL of 1.0 M citric acid with heating (70° C.) for 45 min. The mixture was extracted with EtOAc, and the extracts were dried. over MgSO4, filtered and concentrated to yield a yellow colored solid upon standing at ambient temperature (8.4 g, ˜80% yield); 1H NMR (CDCl3, 300 MHz) δ7.95-7.87 (m, 2H), 7.48-7.45 (m, 3H), 3.86 (s, 2H), 2.85 (q, 2H, J=7.5), 1.36 (t, 3H, J=7.5).

reactant | thiobenzamide | 63.3 mmol, 8.7 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | ethyl 4-bromo-3-oxo-hexanoate | 42.2 mmol, 10 g | BrC(C(CC(=O)OCC)=O)CC | C8H13BrO3
reactant | water | O | H2O
reactant | methanol | CO | CH4O
solvent | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[5-ethyl-2-phenyl-1,3-thiazol-4-yl]acetic acid | ˜80% yield | C(C)C1=C(N=C(S1)C1=CC=CC=C1)CC(=O)O | C13H13NO2S
